US06794373B2
2-Ethyl-7-(3-nitro-phenyl)-4H-benzo[1,4]-thiazin-3-one
A solution of 7-bromo-2-ethyl-4H-benzo[1,4]thiazin-3-one (2 g, 7.3 mmol), 3-nitrophenyl boronic acid (1.22 g, 7.3 mmol), potassium carbonate (3 g, 22 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.84 g, 0.72 mmol) in dimethoxyethane (100 ml), ethanol (25 ml), and water (25 ml) was heated to reflux for 6 hours. After cooling to room temperature, the mixture was diluted with water and extracted with EtOAc (3×40 mL). The combined organic extracts were washed with water, then brine, dried (MgSO4) and evaporated. The residue was recrystallized from ethanol to afford the title compound as tan crystals (0.17 g, 7.3%): mp 180° C.; MS (EI) m/z 314 (M+).

reactant | 7-bromo-2-ethyl-4H-benzo[1,4]thiazin-3-one | 7.3 mmol, 2 g | BrC1=CC2=C(NC(C(S2)CC)=O)C=C1 | C10H10BrNOS
reactant | 3-nitrophenyl boronic acid | 7.3 mmol, 1.22 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | potassium carbonate | 22 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.72 mmol, 0.84 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 2-Ethyl-7-(3-nitro-phenyl)-4H-benzo[1,4]-thiazin-3-one | 0.17 g, 7.3% | C(C)C1SC2=C(NC1=O)C=CC(=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C16H14N2O3S
